US07507740B2
(iv) Production of 4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine-6-carboxylic acid
4-Phenoxy-5H-pyrrolo[3,2-d]pyrimidine-6-carbaldehyde (2.17 g) was dissolved in dimethyl sulfoxide (21 mL) and a solution of sodium dihydrogen phosphate (5.45 g) in water (14 mL) was added. A solution of sodium chlorite (2.06 g) in water (14 mL) was added dropwise to this solution, and the mixture was stirred for 2 hrs. Saturated aqueous sodium hydrogen carbonate solution was gradually added to the reaction mixture, and the pH of the solution was adjusted to 2-3 with 1N hydrochloric acid. The resultant precipitate was collected by filtration, washed with water and diisopropyl ether and dried to give the title compound (2.40 g) as a white powder.

reactant | 4-Phenoxy-5H-pyrrolo[3,2-d]pyrimidine-6-carbaldehyde | 2.17 g | O(C1=CC=CC=C1)C=1C2=C(N=CN1)C=C(N2)C=O | C13H9N3O2
reactant | sodium dihydrogen phosphate | 5.45 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 2.06 g | Cl(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethyl sulfoxide | 21 mL | CS(=O)C | C2H6OS
solvent | water | 14 mL | O | H2O
solvent | water | 14 mL | O | H2O
product | 4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine-6-carboxylic acid | 2.40 g | O(C1=CC=CC=C1)C=1C2=C(N=CN1)C=C(N2)C(=O)O | C13H9N3O3
